### PR TITLE
Finished free group as fundamental group of wedge

### LINKED ISSUE #1549: Update Algebra/Groups/FreeGroup/LoopSusp.v and add it to Groups.v
As discussed in #1548, the LoopSusp.v file should be exported by Groups.v (or maybe FreeGroup.v), so it is (indirectly) exported by HoTT.v and built when HoTT.vo is built.  But before doing this, it would be good to get rid of the name clash between FreeGroup here and in the ListQuotient.v file.  There may also be other name conflicts that should be handled.

(Note that ListQuotient.v is exported by FreeGroup.v, so it is indirectly exported by HoTT.v.)

### PR DESCRIPTION
**Pull request by Alizter**
I've managed to finish the calculation that the fundamental group of a wedge of circles does in fact satisfy the universal property of a free group.

I've also gone ahead and fixed #1549. Unfortunately, this causes some circular dependencies between homotopy group and the abgroup library. I have fixed this by weakening what is exported by abgroups.

My calculation takes a while however, and I am not sure what is causing coq to be so slow.

Closes #1549

### CODE REVIEW

**Comment by Alizter** [comment]
OK that was harder to untangle than I thought. This should be good now.

This does however remind me that I may have kept LoopSusp.v separate for exactly this reason. The dependency Group -> LoopSusp -> HomotopyGroup -> AbGroup is a bit suspect.

File: theories/Algebra/Groups/FreeGroup/LoopSusp.v [hunk 1]
```diff
@@ -62,67 +35,190 @@ Section AssumeUnivalence.
...
-    unfold equiv_freegroup_rec.
-    unfold transitive_equiv.
-    unfold equiv_compose.
-    unfold equiv_isequiv.
-    (** It's not obvious how this can be finished. *)
-  Abort.
+    1: apply equiv_loopsuspfreegroup_rec.
+    intros f.
+    rapply (ap (fun x => x o inl) (stage7_comp S G f)).
+  Defined.
```
Comment (jdchristensen) [inline theories/Algebra/Groups/FreeGroup/LoopSusp.v:222]: The `stages_compute` section is a special case of proving that `equiv_loopsuspfreegroup_rec` is natural in `G`, and the general case goes through with only minor changes.  A version that works is below (but various names and comments still need to be updated;  I made the smallest changes possible.)
```coq
  Section stages_compute.
    Context (S : Type) (G G' : Group) (k : LoopSuspFreeGroup S $-> G) (f : G $-> G').

    Definition stage_id1 := stage1 S _ k.
    Definition stage_id2 := stage2 S _ stage_id1.
    Definition stage_id3 := stage3 S _ stage_id2.
    Definition stage_id4 := stage4 S _ stage_id3.
    Definition stage_id5 := stage5 S _ stage_id4.
    Definition stage_id6 := stage6 S _ stage_id5.

    Lemma stage1_comp : stage1 S G' (f $o k) = f $o stage_id1.
    Proof.
      apply cat_assoc_strong.
    Qed.

    Lemma stage2_comp
      : stage2 S G' (f $o stage_id1) = fmap B f $o stage_id2.
    Proof.
      rapply (path_hom (A:=pType)).
      rapply (fmap_comp B).
    Qed.

    (** TODO: can this be made faster? *)
    Lemma stage3_comp
      : stage3 S G' (fmap B f $o stage_id2) = fmap B f $o stage_id3.
    Proof.
      exact (cat_assoc_strong (A:=pType) _ _ _).
    Qed.

    Lemma stage4_comp
      : stage4 S G' (fmap B f $o stage_id3) = fmap B f $o stage_id4.
    Proof.
      exact (cat_assoc_strong (A:=pType) _ _ _).
    Qed.

    Lemma stage5_comp
      : stage5 S G' (fmap B f $o stage_id4) = fmap (loops o B) f $o stage_id5.
    Proof.
      rapply (path_hom (A:=pType)).
      rapply loop_susp_adjoint_nat_r.
    Defined.

    Instance is0functor_ptype_group : Is0Functor ptype_group.
    Proof.
      apply Build_Is0Functor.
      rapply @pmap_GroupHomomorphism.
    Defined.

    Lemma stage6_comp
      : stage6 S G' (fmap (loops o B) f $o stage_id5)
        = fmap ptype_group f $o stage_id6.
    Proof.
      refine (cat_assoc_opp_strong (A:=pType) _ _ _ @ _).
      refine (_ @ cat_assoc_strong _ _ _).
      refine (ap (fun x => x $o _) _).
      apply path_hom.
      rapply moveR_pequiv_fV.
      refine (pmap_compose_assoc _ _ _ @* _).
      apply moveR_pequiv_Vf.
      rapply pbloop_natural.
    Qed.

    Lemma stage7_comp
      : (stage7 S G' (f $o k) : (_ -> _))
        = f o (stage7 S G k).
    Proof.
      unfold stage7.
      repeat change ((?x oE ?y) ?z) with (x (y z)) in |-*.
      rewrite stage1_comp.
      rewrite stage2_comp.
      rewrite stage3_comp.
      rewrite stage4_comp.
      rewrite stage5_comp.
      rewrite stage6_comp.
      reflexivity.
    Defined.

    Theorem equiv_loopsuspfreegroup_rec_nat
      : equiv_loopsuspfreegroup_rec S G' (f $o k)
        = f o (equiv_loopsuspfreegroup_rec S G k).
    Proof.
      exact (ap (fun x => x o inl) stage7_comp).
    Defined.

  End stages_compute.

  Global Instance isfreegroupon_freegroup (S : Type)
    : IsFreeGroupOn S (LoopSuspFreeGroup S) (loopsuspfreegroup_incl S).
  Proof.
    apply isfreegroupon_isequiv_postcomp.
    intro G.
    snrapply isequiv_homotopic'.
    1: apply equiv_loopsuspfreegroup_rec.
    intros f.
    refine (_ @ equiv_loopsuspfreegroup_rec_nat S _ G grp_homo_id f).
    rewrite cat_idr_strong.
    reflexivity.
  Defined.
```

File: theories/Algebra/Groups/FreeGroup/LoopSusp.v [hunk 2]
```diff
@@ -62,67 +35,190 @@ Section AssumeUnivalence.
...
+    Qed.
+
+    Lemma stage2_comp
+      : stage2 S G (f $o stage_id1) = fmap B f $o stage_id2.
+    Proof.
+      rapply (path_hom (A:=pType)).
+      rapply (fmap_comp B).
+    Qed.
+
+    (** TODO: can this be made faster? *)
```
Comment (jdchristensen) [inline theories/Algebra/Groups/FreeGroup/LoopSusp.v:156]: This is fast for me.

File: theories/Algebra/Groups/FreeGroup/LoopSusp.v [hunk 3]
```diff
@@ -62,67 +35,190 @@ Section AssumeUnivalence.
...
+      unfold stage7.
+      repeat change ((?x oE ?y) ?z) with (x (y z)) in |-*.
+      rewrite stage1_comp.
+      rewrite stage2_comp.
+      rewrite stage3_comp.
+      rewrite stage4_comp.
+      rewrite stage5_comp.
+      rewrite stage6_comp.
+      reflexivity.
+    Defined.
```
Comment (jdchristensen) [inline theories/Algebra/Groups/FreeGroup/LoopSusp.v:209]: `stage7_comp` is the slow part for me.  I tried lots of things to speed it up, with no luck.

Maybe if stages 1 to 4 are combined into a general lemma, and naturality is proved separately for that lemma, things would be faster?

**Review by jdchristensen — COMMENTED** [review]
This is great!

File: theories/Algebra/Groups/FreeGroup/LoopSusp.v (hunk 2 above)
Comment (Alizter) [reply theories/Algebra/Groups/FreeGroup/LoopSusp.v:156]: Which coq version are you running? I am on master

File: theories/Algebra/Groups/FreeGroup/LoopSusp.v [hunk 4]
```diff
@@ -62,67 +35,190 @@ Section AssumeUnivalence.
...
+
     (** We can now get rid of the truncation by the universal property of trucation since BG is 1-truncated. *)
-    etransitivity.
-    1: rapply equiv_ptr_rec.
+    Local Definition stage4
+      : ((pTr 1 (psusp (pointify S))) ->* (B G))
+        <~> ((psusp (pointify S)) ->* (B G)).
+    Proof.
+      apply equiv_ptr_rec.
+    Defined.
```
[the remark this answers is not in the document]
Comment (Alizter) [reply theories/Algebra/Groups/FreeGroup/LoopSusp.v:83]: Ah ok nice, we have an adjunction.

File: theories/Algebra/Groups/FreeGroup/LoopSusp.v [hunk 5]
```diff
@@ -62,67 +35,190 @@ Section AssumeUnivalence.
...
+    Local Definition stage6
+      : ((pointify S) ->* (loops (B G)))
+        <~> ((pointify S) ->* (Build_pType G _)).
+    Proof.
+      rapply equiv_pequiv_postcompose.
+      apply pequiv_loops_bg_g.
+    Defined.
+
+    (** We package the stages up into one lemma. *)
+    Local Definition stage7
```
[the remark this answers is not in the document]
Comment (Alizter) [reply theories/Algebra/Groups/FreeGroup/LoopSusp.v:103]: They are probably not necessery, but when writing the proof it was helpful to keep them under a name so I could unfold them manually. I think splitting them up more logically is possible now that we know that the proof goes through.

File: theories/Algebra/Groups/FreeGroup/LoopSusp.v [hunk 6]
```diff
@@ -14,34 +14,7 @@ Import ClassifyingSpaceNotation.
...
-  pointed_reduce.
-  rapply equiv_path_pforall.
-  snrapply Build_pHomotopy.
-  1: by intros [a|[]].
-  reflexivity.
-Defined.
+*)
 
 (** We can rephrase the universal property of the free group as a certain precomposition being an equivalence. *)
 Definition isfreegroupon_isequiv_postcomp `{Funext} (F : Group) (A : Type) (i : A -> F)
```
[the remark this answers is not in the document]
Comment (Alizter) [reply theories/Algebra/Groups/FreeGroup/LoopSusp.v:20]: I agree.

File: theories/Algebra/Groups/FreeGroup/LoopSusp.v (hunk 5 above)
[the remark this answers is not in the document]
Comment (jdchristensen) [reply theories/Algebra/Groups/FreeGroup/LoopSusp.v:103]: Rather than renaming this, maybe it should just be inserted into `equiv_loopsuspfreegroup_rec`.  (It could also be done as one line in there.)  Also, there's really one more stage, namely `equiv_pointify_map`, that could be handled in the same way as the other stages.

File: theories/Algebra/Groups/FreeGroup/LoopSusp.v (hunk 2 above)
Comment (jdchristensen) [reply theories/Algebra/Groups/FreeGroup/LoopSusp.v:156]: I'm using 8.13.0.  But I focused on timing *after* generalizing the stages_compute section to prove naturality, so maybe that caused stage3_comp to speed up?

Comment (Alizter) [reply theories/Algebra/Groups/FreeGroup/LoopSusp.v:156]: That probably helped then. I can have a look tomorrow when I have more time.

**Comment by jdchristensen** [comment]
About the dependency issue, maybe this file should be regarded as a computation of Pi1 of the suspension of a type S.  From that point of view, this file would belong in the Homotopy folder, and would not be exported by Group.  The FreeGroup folder could also be removed if this is done.  This makes sense to me.  The existence of free groups is proved in a purely "algebraic" way, and then later we show that Pi1 of the suspension of S is also a free group.

**Comment by mikeshulman** [comment]
I like that suggestion.

**Comment by Alizter** [comment]
OK, I've rewritten a lot of it now.

I have done as you've suggested and made ListQuotient the main definition of freegroup, and therefore inlined the file. I've moved LoopSusp.v to Homotopy and renamed it to Bouquet.v. I got rid of the staging, and replaced it all with appropriate natural equivalences. The proof is now much shorter.

File: theories/Homotopy/Bouquet.v [hunk 7]
```diff
@@ -0,0 +1,97 @@
+Require Import Basics Types Pointed WildCat.
+Require Import Algebra.Groups.
+Require Import Truncations.
+Require Import Homotopy.Suspension.
+Require Import Homotopy.ClassifyingSpace.
+Require Import Homotopy.HomotopyGroup.
+Require Import Homotopy.Wedge.
```
Comment (Alizter) [inline theories/Homotopy/Bouquet.v:7]:
```suggestion
```

File: theories/Homotopy/Bouquet.v [hunk 8]
```diff
@@ -0,0 +1,97 @@
...
+    1: refine (natequiv_prewhisker
+      (natequiv_loop_susp_adjoint_r (pointify S)) B).
+    (** Pi1-BG adjunction *)
+    rapply natequiv_bg_pi1_adjoint.
+  Defined.
+
+  (** For the rest of this file, we don't need to unfold this. *)
+  Local Opaque natequiv_pi1bouquet_rec.
+
+    (** Finally we use the pointify adjunction. *)
```
Comment (Alizter) [inline theories/Homotopy/Bouquet.v:59]:
```suggestion
```

File: theories/Homotopy/ClassifyingSpace.v [hunk 9]
```diff
@@ -388,12 +394,37 @@ Proof.
     apply bloop_pp.
 Defined.
 
+Global Instance is0functor_pclassifyingspace : Is0Functor pClassifyingSpace.
+Proof.
+  apply Build_Is0Functor.
+  rapply @functor_pclassifyingspace.
+Defined.
```
Comment (jdchristensen) [inline theories/Homotopy/ClassifyingSpace.v:401]: Is there a reason to have both `functor_pclassifyingspace` and `is0functor_pclassifyingspace`?  Is it just to avoid needing to use `fmap` in some cases?

File: theories/Homotopy/ClassifyingSpace.v [hunk 10]
```diff
@@ -388,12 +394,37 @@ Proof.
...
+
 Definition bloop_natural (G H : Group) (f : GroupHomomorphism G H)
   : loops_functor (functor_pclassifyingspace f) o bloop == bloop o f.
 Proof.
   nrapply pClassifyingSpace_rec_beta_bloop.
 Defined.
 
+Lemma pbloop_natural (G K : Group) (f : G $-> K) 
+  : loops_functor (fmap B f) o* pbloop
+    ==* pbloop o* f.
```
Comment (jdchristensen) [inline theories/Homotopy/ClassifyingSpace.v:411]: Putting this on one line makes it look more similar to the previous result about `bloop`:
```suggestion
  : loops_functor (fmap B f) o* pbloop ==* pbloop o* f.
```

File: theories/Homotopy/ClassifyingSpace.v [hunk 11]
```diff
@@ -518,3 +565,48 @@ Proof.
...
+(** We have the following natural equivalence. *)
+Lemma natequiv_bg_pi1_adjoint `{Univalence} (X : pType) `{IsConnected 0 X}
+  : NatEquiv (opyon (Pi1 X)) (opyon X o B).
+Proof.
+  refine (natequiv_compose (G := opyon (Pi1 (pTr 1 X))) _ _); revgoals.
+  { snrapply Build_NatEquiv.
+    - intros G.
+      srapply equiv_precompose_cat_equiv.
+      rapply grp_iso_pi1_Tr.
+    - rapply is1natural_opyoneda. }
```
Comment (jdchristensen) [inline theories/Homotopy/ClassifyingSpace.v:578]: It seems like there should be a lemma that says that if `X $<~> Y`, then `NatEquiv (opyon X) (opyon Y)`, which should reduce this to one or two lines.

File: theories/Homotopy/ClassifyingSpace.v [hunk 12]
```diff
@@ -491,12 +530,20 @@ Defined.
...
 Defined.
 
+Global Instance is1natural_grp_homo_pmap_bg_r {U : Univalence} (G : Group)
+  : Is1Natural (opyon G) (opyon (B G) o B) (equiv_grp_homo_pmap_bg G).
+Proof.
+  intros K H f h.
+  apply path_hom.
+  rapply (fmap_comp B h f).
+Defined.
+
```
Comment (jdchristensen) [inline theories/Homotopy/ClassifyingSpace.v:546]: May as well record the natural equivalence that will be useful later.
```suggestion

Theorem natequiv_grp_homo_pmap_bg `{U : Univalence} (G : Group)
  : NatEquiv (opyon G) (opyon (B G) o B).
Proof.
  rapply Build_NatEquiv.
Defined.
```

File: theories/Homotopy/ClassifyingSpace.v [hunk 13]
```diff
@@ -518,3 +565,48 @@ Proof.
...
+  { snrapply Build_NatEquiv.
+    - intros G.
+      srapply equiv_precompose_cat_equiv.
+      rapply grp_iso_pi1_Tr.
+    - rapply is1natural_opyoneda. }
+  refine (natequiv_compose (G := opyon (B (Pi1 (pTr 1 X))) o B) _ _); revgoals.
+  { snrapply Build_NatEquiv.
+    - intros G.
+      apply equiv_grp_homo_pmap_bg.
+    - exact _. }
```
Comment (jdchristensen) [inline theories/Homotopy/ClassifyingSpace.v:583]:
```suggestion
  refine (natequiv_compose _ (natequiv_grp_homo_pmap_bg _)).
```
(The next step or two could also be factored out in a similar way.)

**Review by jdchristensen — COMMENTED** [review]
This is very nice!  I like how the WildCat stuff is really simplifying things.

File: theories/Homotopy/ClassifyingSpace.v [hunk 14]
```diff
@@ -283,6 +283,14 @@ Section EncodeDecode.
     apply bloop_id.
   Defined.
 
+  (** The underlying pointed map of pequiv_g_loops_bg *)
+  Definition pbloop : G ->* loops (B G).
+  Proof.
+    srapply Build_pMap.
+    1: exact bloop.
+    apply bloop_id.
+  Defined.
```
[the remark this answers is not in the document]
Comment (jdchristensen) [reply theories/Homotopy/ClassifyingSpace.v]: This above simplification can still be done.

File: theories/Homotopy/ClassifyingSpace.v (hunk 9 above)
Comment (Alizter) [reply theories/Homotopy/ClassifyingSpace.v:401]: I think it is good to have both around. Obviously, `functor_X` came before `is0functor_X`. And in many cases, the impelementation of `is0functor_X` just uses `functor_X`. But say you had a development, and you wanted to simplify `fmap`s down. If you keep `functor_X` around you can mark it as opaque etc.

Sometimes you might not want to invoke typeclass search and really only talk about `functor_X`. Then it makes sense not to use just `fmap`.

File: theories/Homotopy/Bouquet.v [hunk 15]
```diff
@@ -0,0 +1,97 @@
...
+    1: refine (natequiv_prewhisker (natequiv_pointify_r S) ptype_group).
+    (** Post-compose with [pequiv_loops_bg_g] *)
+    nrefine (natequiv_compose _ _).
+    { snrapply Build_NatEquiv.
+      1: intros G; rapply (equiv_postcompose_cat_equiv pequiv_loops_bg_g).
+      intros G K f g.
+      apply path_hom.
+      refine (cat_assoc_opp _ _ _ $@ (_ $@R _) $@ cat_assoc _ _ _).
+      rapply (is1natural_natequiv _ _
+        (natequiv_inverse _ _ natequiv_g_loops_bg)). }
```
[the remark this answers is not in the document]
Comment (Alizter) [reply theories/Homotopy/Bouquet.v:47]: Much nicer!

File: theories/Homotopy/ClassifyingSpace.v (hunk 10 above)
Comment (Alizter) [reply theories/Homotopy/ClassifyingSpace.v:411]: That's fine, I think my editor window was a bit squished when I wrote it.

File: theories/Homotopy/ClassifyingSpace.v (hunk 11 above)
Comment (Alizter) [reply theories/Homotopy/ClassifyingSpace.v:578]: I also thought there should be such a lemma, but I had trouble proving it. I opted for doing it directly here.

File: theories/Homotopy/ClassifyingSpace.v (hunk 12 above)
Comment (Alizter) [reply theories/Homotopy/ClassifyingSpace.v:546]: OK.

File: theories/Homotopy/ClassifyingSpace.v (hunk 13 above)
Comment (Alizter) [reply theories/Homotopy/ClassifyingSpace.v:583]: Nice.

File: theories/Homotopy/ClassifyingSpace.v (hunk 11 above)
Comment (jdchristensen) [reply theories/Homotopy/ClassifyingSpace.v:583]: This works:
```coq
Definition natequiv_opyon_equiv {A : Type} `{HasEquivs A} `{!HasMorExt A} (a b : A)
  : (b $<~> a) -> NatEquiv (opyon a) (opyon b).
Proof.
  intro e.
  snrapply Build_NatEquiv.
  - intros c.
    exact (equiv_precompose_cat_equiv e).
  - rapply is1natural_opyoneda.
Defined.
```

Comment (Alizter) [reply theories/Homotopy/ClassifyingSpace.v]: Nice, I've added the opyon and yon versions in.

File: theories/Homotopy/ClassifyingSpace.v (hunk 14 above)
[the remark this answers is not in the document]
Comment (Alizter) [reply theories/Homotopy/ClassifyingSpace.v]: Done.

**Comment by Alizter** [comment]
Regarding the yoneda lemma. IIRC we should be able to show that turning an equivalence into a natural equivalence and then back is the identity. Or the other way round? But in general this fails to become an equivalence due to being wild.

**Comment by jdchristensen** [comment]
This LGTM.

File: theories/Homotopy/ClassifyingSpace.v (hunk 9 above)
Comment (mikeshulman) [reply theories/Homotopy/ClassifyingSpace.v:397]: I can imagine situations where having both would be annoying, though.  Say someone proved something using `functor_X` and you want to apply a general lemma about `fmap`s.  I thought one of the points of the wildcat library was to avoid this sort of redundancy.  Have you actually encountered situations where you were glad to have both?  I'd be inclined to collapse them whenever possible until we start having problems.

File: theories/Homotopy/ClassifyingSpace.v [hunk 16]
```diff
@@ -518,3 +566,38 @@ Proof.
   rapply isequiv_homotopic'; symmetry.
   nrapply pClassifyingSpace_rec_beta_bloop.
 Defined.
+
+(** We have the following natural equivalence. *)
```
Comment (mikeshulman) [inline theories/Homotopy/ClassifyingSpace.v:570]: This is not a very helpful comment.  (-:

**Review by mikeshulman — APPROVED** [review]

File: theories/Homotopy/ClassifyingSpace.v (hunk 16 above)
Comment (Alizter) [inline theories/Homotopy/ClassifyingSpace.v:570]:
```suggestion
```

Comment (Alizter) [reply theories/Homotopy/ClassifyingSpace.v:570]: I'll get rid of it since the next comment describes it.

File: theories/Homotopy/ClassifyingSpace.v (hunk 9 above)
Comment (Alizter) [reply theories/Homotopy/ClassifyingSpace.v:397]: I'll have to do some testing then. I will see if it is possible to replace all instances of `functor_X` with `fmap`. I haven't got a more solid argument than what I explained above.

Comment (mikeshulman) [reply theories/Homotopy/ClassifyingSpace.v:397]: Maybe that should be a separate issue/discussion and we should go ahead and merge this as-is.

Comment (Alizter) [reply theories/Homotopy/ClassifyingSpace.v:397]: Yes I agree.

**Comment by jdchristensen** [comment]
I just realized a few minutes too late that Bouquet.v is not listed in HoTT.v...

**Comment by Alizter** [comment]
@jdchristensen That's fine, I can send a fix.
